US07244726B2
6-Bromomethyl-4-methanesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (D2)
4-Methanesulfonyl-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine (2.0 g, 8.8 mmol) and N-bromosuccinimide (1.88 g, 10.6 mmol) were dissolved in carbon tetrachloride (100 mL) and the mixture heated at reflux under a 250 W tungsten lamp. After 2 h the mixture was cooled to ambient temperature and filtered through Kieselguhr. The combined filtrate and washings were evaporated to dryness under reduced pressure to give the title compound (2.66 g, 100%) as a brown oil.

reactant | 4-Methanesulfonyl-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 8.8 mmol, 2.0 g | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)C | C10H13NO3S
reactant | N-bromosuccinimide | 10.6 mmol, 1.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | 6-Bromomethyl-4-methanesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 2.66 g, 100% | BrCC=1C=CC2=C(N(CCO2)S(=O)(=O)C)C1 | C10H12BrNO3S
